US05658489
In a four necked flask equipped with a stirrer, a reflux condenser and a thermometer which had been replaced by a nitrogen atmosphere, 1-(4-cyanophenyl)-2-(4-bromophenyl)acetylene (3.4 g, 12 mmol), tetrakis(triphenylphosphine)palladium (0.23 g, 0.2 mmol), N-methylpiperidine (5 g), potassium carbonate (5.5 g, 40 mmol) and tetrahydrofuran (60 ml) were charged. Then, to the mixture, a solution of E-1-pentenylcatecholborane (20 mmol) in tetrahydrofuran (50 ml) was dropwise added at room temperature, followed by heat refluxing for 6 hours while stirring. After cooling the reaction mixture to room temperature, 10% aqueous solution of sodium hydroxide (5 ml) and 30% aqueous hydrogen peroxide (2 ml) were added to the mixture, followed by stirring for 1 hour. The mixture was extracted with ethyl ether. The organic layer was washed with saturated aqueous solution of sodium chloride (20 ml each) twice and dried over anhydrous magnesium sulfate. After evaporating the solvent off, the residue was purified by silica gel column chromatography to obtain 1-(4-cyanophenyl)-2-[4-(1-trans-pentenyl)phenyl]acetylene (2.7 g). Yield: 84%.

reactant | 1-(4-cyanophenyl)-2-(4-bromophenyl)acetylene | 12 mmol, 3.4 g | C(#N)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)Br | C15H8BrN
reactant | N-methylpiperidine | 5 g | CN1CCCCC1 | C6H13N
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 2 ml | OO | H2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-(4-cyanophenyl)-2-[4-(1-trans-pentenyl)phenyl]acetylene | 2.7 g, Yield: 84% | C(#N)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)\C=C\CCC | C20H17N
